US08685975B2
4-(((Tert-butyldimethylsilyl)oxy)methyl)benzohydrazide was reacted with ethyl cyclopropanecarbimidate hydrochloride according to the procedure used for the synthesis of Example 18. Purification by chromatography (EtOAc-hexanes) gave 2-(4-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)-5-cyclopropyl-1,3,4-oxadiazole as a brown oil (3.7 g, 40% yield).

reactant | 4-(((Tert-butyldimethylsilyl)oxy)methyl)benzohydrazide | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C(=O)NN)C=C1 | C14H24N2O2Si
reactant | ethyl cyclopropanecarbimidate hydrochloride | Cl.C1(CC1)C(OCC)=N
product | 2-(4-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)-5-cyclopropyl-1,3,4-oxadiazole | 3.7 g, 40% yield | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C=1OC(=NN1)C1CC1 | C18H26N2O2Si
